US06727264B1
N-(4-{1-[6-(1H-INDOL-1-YL)HEXYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure AH and Scheme P using 1-(6-chlorohexyl)-1H-indole and N-[4-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 432.3 (M+H)+.

reactant | 1-(6-chlorohexyl)-1H-indole | ClCCCCCCN1C=CC2=CC=CC=C12 | C14H18ClN
reactant | N-[4-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C1=CC=C(C=C1)NC(CC)=O | C14H20N2O
product | N-(4-{1-[6-(1H-INDOL-1-YL)HEXYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | N1(C=CC2=CC=CC=C12)CCCCCCN1CCC(CC1)C1=CC=C(C=C1)NC(CC)=O | C28H37N3O
